US07511074B2
To a solution of 2-carbamoyl-4-[2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl-(2,2,2-trifluoroacetyl)amino]phenyl trifluoroacetate (300 mg, 0.52 mmole) in methanol (8 ml) and water (3 ml) was added c-HCl (2.0 ml) at 40° C. under a nitrogen atmosphere. After the reaction mixture was stirred for 24 hr, the organic solvent was removed in vacuo. The residue was extracted with ethyl acetate (20 ml×3). The organic layer was washed with water and then dried over anhydrous Na2SO4. After evaporation of the solvent, the residue was recrystallized from methylene chloride/hexane (1:10) to give 120 mg (60% yield) of 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzamide as a white solid.

reactant | 2-carbamoyl-4-[2,3,5,6-tetrafluoro-4-trifluoromethylbenzyl-(2,2,2-trifluoroacetyl)amino]phenyl trifluoroacetate | 0.52 mmole, 300 mg | FC(C(=O)OC1=C(C=C(C=C1)N(C(C(F)(F)F)=O)CC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)C(N)=O)(F)F | C19H7F13N2O4
solvent | methanol | 8 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 2-hydroxy-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzamide | 120 mg, 60% yield | OC1=C(C(=O)N)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C15H9F7N2O2
